US07238689B2
0.6 g of sodium hydrosulfide (purity: 70%, 10.7 mmoles) was added to a solution of 0.7 g (3.7 mmoles) of 5,5-dimethyl-3-ethylsulfonyl-2-isoxazoline dissolved in 30 ml of N,N-dimethylformamide. The mixture was stirred for 1 hour. Thereto were added 0.51 g (3.7 mmoles) of anhydrous potassium carbonate and 0.56 g (3.6 mmoles) of Rongalit. The resulting mixture was stirred for 2 hours. Thereto was added, with ice-cooling, 0.9 g (3.5 mmoles) of 4-bromomethyl-3,5-dichloro-1-ethyl-1H-pyrazole. The resulting mixture was stirred at room temperature for 2 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 0.8 g (yield: 70.8%) of 3-(3,5-dichloro-1-ethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline as a colorless transparent oily substance.

reactant | sodium hydrosulfide | 10.7 mmoles, 0.6 g | [SH-].[Na+]
reactant | 5,5-dimethyl-3-ethylsulfonyl-2-isoxazoline | 3.7 mmoles, 0.7 g | CC1(CC(=NO1)S(=O)(=O)CC)C | C7H13NO3S
reactant | potassium carbonate | 3.7 mmoles, 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | Rongalit | 3.6 mmoles, 0.56 g | C(O)S(=O)[O-].[Na+]
reactant | 4-bromomethyl-3,5-dichloro-1-ethyl-1H-pyrazole | 3.5 mmoles, 0.9 g | BrCC=1C(=NN(C1Cl)CC)Cl | C6H7BrCl2N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(3,5-dichloro-1-ethyl-1H-pyrazol-4-ylmethylthio)-5,5-dimethyl-2-isoxazoline | 0.8 g, yield: 70.8% | ClC1=NN(C(=C1CSC1=NOC(C1)(C)C)Cl)CC | C11H15Cl2N3OS
